US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-[methyl(1H-1,2,4-triazol-5-ylmethyl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile (#72)
7-Fluoro-5-methyl-2-[methyl(1H-1,2,4-triazol-5-ylmethyl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-165) (0.24 g, 0.66 mmol) was dissolved in dimethyl sulfoxide (5 ml), then triethylamine (0.19 ml, 1.37 mmol) and (3S)-3-(dimethylamino)pyrrolidine (0.17 ml, 1.34 mmol) were added, followed by stirring in a sealed tube at an external temperature of about 150° C. for 4 hours. This was diluted with dichloromethane, and washed with water and brine. After drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=10:1), then diisopropyl ether was added and the insoluble matter was collected by filtration to obtain a beige solid (0.13 g, 42%).

reactant | 7-Fluoro-5-methyl-2-[methyl(1H-1,2,4-triazol-5-ylmethyl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.66 mmol, 0.24 g | FC=1C(=C(C(=C2N=C(OC21)N(CC2=NC=NN2)C)C#N)C)C2=CC=CC=C2 | C19H15FN6O
reactant | triethylamine | 1.37 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.34 mmol, 0.17 ml | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-[methyl(1H-1,2,4-triazol-5-ylmethyl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.13 g, 42% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)N(CC2=NC=NN2)C)C#N)C)C2=CC=CC=C2)C | C25H28N8O
